US07435823B2
Step (c) Preparation of 6-bromo-naphthalene-2-carboxylic acid methoxy-methyl-amide
To a suspension of 6-bromo-naphthalene-2-carboxylic acid (0.6 g, 2.4 mmol) and O,N-dimethyl-hydroxylamine (0.28 g, 2.87 mmol) in CH2Cl2 (20 mL), was added EDC (0.55 g, 2.87 mmol), HOBt (0.39 g, 2.87 mmol) and TEA (0.66 mL, 4.8 mmol). The reaction was stirred at RT overnight. The solvent was removed in vacuo and the crude material was purified by silica gel column chromatography with (20-40% EtOAc/hexane) to give the titled compound as a white solid. MS (ESI, pos. ion) m/z: 294.0 (M+1).

reactant | 6-bromo-naphthalene-2-carboxylic acid | 2.4 mmol, 0.6 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H7BrO2
reactant | O,N-dimethyl-hydroxylamine | 2.87 mmol, 0.28 g | CONC | C2H7NO
reactant | EDC | 2.87 mmol, 0.55 g
reactant | HOBt | 2.87 mmol, 0.39 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-naphthalene-2-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC2=CC=C(C=C2C=C1)Br)C | C13H12BrNO2
